US08252820B2
D. Methanesulfonic acid 2-[3-benzyloxy-5-fluoro-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-5-methylphenyl ester
A mixture of 5-[2-fluoro-6-hydroxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one (150 mg, 0.325 mmol) and Pd(PPh3)4 (38 mg, 0.0325 mmol) in DME (2 mL) is heated at 60° C. under argon for 1 h. Then methanesulfonic acid 2-bromomethyl-5-methylphenyl ester (181 mg, 0.65 mmol) and Na2CO3 (2N solution, 0.81 mL) is added. The mixture is heated at 120° C. in a microwave for 20 min. 1N HCl is added and the reaction mixture is extracted with EtOAc. The organic layer is washed with brine, dried over MgSO4 and filtered. The filtrate is concentrated to give the title compound and it is used directly in the next step: MS (M−H)−=533.

reactant | 5-[2-fluoro-6-hydroxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.325 mmol, 150 mg | FC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)O)N1CC(NS1(=O)=O)=O | C14H18BFN2O6S
reactant | methanesulfonic acid 2-bromomethyl-5-methylphenyl ester | 0.65 mmol, 181 mg | BrCC1=C(C=C(C=C1)C)OS(=O)(=O)C | C9H11BrO3S
reactant | Na2CO3 | 2N, 0.81 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | DME | 2 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.0325 mmol, 38 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methanesulfonic acid 2-[3-benzyloxy-5-fluoro-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-5-methylphenyl ester | C(C1=CC=CC=C1)OC=1C=C(CC2=C(C=C(C=C2)C)OS(=O)(=O)C)C=C(C1N1S(NC(C1)=O)(=O)=O)F | C24H23FN2O7S2
